US20010016207A1
E. N-[1-(Cyanomethyl-carbamoyl)-cyclohexyl]-4-[4-(2-methoxy-ethyl)-piperazin-1-yl]-benzamide
1-Amino-cyclohexanecarboxylic acid cyanomethyl-amide (1.0 mmol), [4-(2-methoxy-ethyl)-piperazin-1-yl]-benzoic acid hydrochloride (1.0 mmol), HOBT (1.0 mmol), WSCD (1.0 mmol) and triethylamine (1.0 mmol) are dissolved in DMF (4 ml) and stirred overnight at rt. After evaporation of the solvent, the residue is dissolved in a mixture of water and sodium carbonate (to ensure slightly basic conditions) and extracted three times with ethyl acetate. The combined extract is dried over sodium sulfate and evaporated. The residue is purified by flash chromatography on silica gel with CH2Cl2/MeOH=92.5:7.5 as mobile phase. The product containing fractions are combined and evaporated. The residue is suspended in diethylether and the solid filtered of and dried (vacuum). A pale powder with mp. 166-168° C., Rf=0.37 (CH2Cl2/MeOH=9:1) is obtained.

reactant | 1-Amino-cyclohexanecarboxylic acid cyanomethyl-amide | 1.0 mmol | C(#N)CNC(=O)C1(CCCCC1)N | C9H15N3O
reactant | [4-(2-methoxy-ethyl)-piperazin-1-yl]-benzoic acid hydrochloride | 1.0 mmol | Cl.COCCN1CCN(CC1)C1=C(C(=O)O)C=CC=C1
reactant | HOBT | 1.0 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 1.0 mmol | C(C)N(CC)CC | C6H15N
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
product | N-[1-(Cyanomethyl-carbamoyl)-cyclohexyl]-4-[4-(2-methoxy-ethyl)-piperazin-1-yl]-benzamide | C(#N)CNC(=O)C1(CCCCC1)NC(C1=CC=C(C=C1)N1CCN(CC1)CCOC)=O | C23H33N5O3
